US07662809B2
Step 5: 3-[2-(2-aminophenyl)-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic Acid
To a solution of 3-[2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid in DCM (0.05 M) a large excess (>100 eq) of TFA was added and the solution was stirred at RT for 1 h. The volatiles were removed in vacuo to afford the title compound (quant); MS (ES+) m/z 421 (M+H)+.

reactant | 3-[2-{2-[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)O | C30H36N2O6
reactant | TFA | >100 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
product | 3-[2-(2-aminophenyl)-3-cyclohexyl-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic Acid | NC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CCC(=O)O | C25H28N2O4
